US05217964
Step a: 1,19-Bis(t-Butyloxycarbonyl)-1,6,14,19-tetra[(4-methylphenyl)sulfonyl]-1,6,14,19-tetraazanonadecane
Suspend sodium hydride (4.8 g, 0.2 mol) in anhydrous dimethylformamide (100 mL), cool to 0° C. and place under a nitrogen atmosphere. Add, by dropwise addition, a solution 1,9-bis[(4-methylphenyl)sulfonyl]-1,9-diazanonane (43.8 g, 0.1 mol) in dimethylformamide. Stir until evolution of hydrogen ceases. Add, by dropwise addition, a solution of N-(t-butyloxycarbonyl)-N-[(4-methylphenyl)sulfonyl]-4-chlorobutylamine (72.4 g, 0.2 mol) in dimethylformamide (100 mL). Stir overnight at room temperature then carefully quench with saturated ammonium chloride. Extract into ethyl acetate, dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatogaphy to give the title compound.

reactant | sodium hydride | 0.2 mol, 4.8 g | [H-].[Na+]
reactant | 1,9-bis[(4-methylphenyl)sulfonyl]-1,9-diazanonane | 0.1 mol, 43.8 g | CC1=CC=C(C=C1)S(=O)(=O)NCCCCCCCNS(=O)(=O)C1=CC=C(C=C1)C | C21H30N2O4S2
reactant | hydrogen | [H][H] | H2
reactant | N-(t-butyloxycarbonyl)-N-[(4-methylphenyl)sulfonyl]-4-chlorobutylamine | 0.2 mol, 72.4 g | C(C)(C)(C)OC(=O)N(S(=O)(=O)C1=CC=C(C=C1)C)CCCCCl | C16H24ClNO4S
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1,19-Bis(t-Butyloxycarbonyl)-1,6,14,19-tetra[(4-methylphenyl)sulfonyl]-1,6,14,19-tetraazanonadecane | C(C)(C)(C)OC(=O)N(CCCCN(CCCCCCCN(CCCCN(S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C53H76N4O12S4
